US04029704
The 2-hydroxy-4-isodecyloxyphenyl benzyl ketone was prepared by alkylation of 2,4-dihydroxyphenyl benzyl ketone with isodecyloxy bromide as follows:

reactant | 2,4-dihydroxyphenyl benzyl ketone | C(C1=CC=CC=C1)C(=O)C1=C(C=C(C=C1)O)O | C14H12O3
reactant | isodecyloxy bromide | C(CCCCCCC(C)C)OBr | C10H21BrO
product | 2-hydroxy-4-isodecyloxyphenyl benzyl ketone | C(C1=CC=CC=C1)C(=O)C1=C(C=C(C=C1)OCCCCCCCC(C)C)O | C24H32O3
